US05021443
9 g of ethyl 4-(1-benzylbenzimidazol-2-yl)-3,3-dimethylbutanoate, prepared in Example 47, are dissolved in a mixture composed of 90 ml of concentrated hydrochloric acid, 270 ml of water and 250 ml of acetic acid. The mixture is refluxed for 4 hours and the solvents are concentrated under vacuum. The residue is taken up with a 1N solution of sodium hydroxide and the resulting mixture is washed with ether; the aqueous phase is acidified by having sulfur dioxide bubbled through it until the pH is 5-6, and the crystals formed are filtered off and washed with water and isopropyl ether to give 5.3 g of 4-(1-benzylbenzimidazol-2-yl)-3,3-dimethylbutanoic acid in the form of crystals melting at 160°-1° C.

reactant | ethyl 4-(1-benzylbenzimidazol-2-yl)-3,3-dimethylbutanoate | 9 g | C(C1=CC=CC=C1)N1C(=NC2=C1C=CC=C2)CC(CC(=O)OCC)(C)C | C22H26N2O2
reactant | hydrochloric acid | 90 ml | Cl | ClH
reactant | water | 270 ml | O | H2O
solvent | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
product | 4-(1-benzylbenzimidazol-2-yl)-3,3-dimethylbutanoic acid | 5.3 g | C(C1=CC=CC=C1)N1C(=NC2=C1C=CC=C2)CC(CC(=O)O)(C)C | C20H22N2O2
